US04588719
3-Bromo-4-methoxyphenylpropionitrile
Bromine (21.4 ml) is added dropwise over a period of 1 hour to a stirred solution of 4-methoxyphenylpropionitrile (67.5 g) and sodium acetate (68.4 g) in glacial acetic acid (40 ml). The reaction mixture is stirred for an additional 30 minutes and partitioned between water and ether. The ether layer is washed with sodium carbonate solution, 10% aqueous NaOH, saturated salt, dried over Na2SO4 and filtered. The filtrate is evaporated in vacuo yielding the desired product, B.P. 155°-158° C. (4 mm).

reactant | Bromine | 21.4 ml | BrBr | Br2
reactant | 4-methoxyphenylpropionitrile | 67.5 g | COC1=CC=C(C=C1)C(C#N)C | C10H11NO
reactant | sodium acetate | 68.4 g | C(C)(=O)[O-].[Na+]
solvent | acetic acid | 40 ml | C(C)(=O)O | C2H4O2
product | 3-Bromo-4-methoxyphenylpropionitrile | BrC=1C=C(C=CC1OC)C(C#N)C | C10H10BrNO
